US06103750
To a solution wherein electrolytic iron powder (5.59 g, 100.0 mmol) is in acetic acid (100 ml) and water (10 ml), an acetic acid (20 ml) solution of 5-chloro-6-nitro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran (5.43 g, 20.0 mmol) was added dropwise at 50 to 60° C. over a period of about 10 minutes and further stirred for 30 minutes. The reaction solution was then filtered and water was poured into the filtrate. After the solution was extracted with ethyl acetate, the organic layer was washed with a saturated sodium hydrogencarbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give 4.46 g of 6-amino-5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran.

reactant | 5-chloro-6-nitro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran | 20.0 mmol, 5.43 g | ClC=1C=C2C(OC(C2=CC1[N+](=O)[O-])(F)F)(F)F | C8H2ClF4NO3
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | iron | 100.0 mmol, 5.59 g | [Fe] | Fe
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-amino-5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran | 4.46 g | NC1=C(C=C2C(OC(C2=C1)(F)F)(F)F)Cl | C8H4ClF4NO
